US04360470
To a solution of 3 ml of methanol, 5 ml of isopropanol and 0.8 g of potassium hydroxide was added 0.294 g (0.000599 mol) of methyl 3α,7α-diacetyloxy-5β-cholan-24-oate. The mixture was heated to reflux under an argon atmosphere for 4 hr. then stirred overnight at room temperature. The solvents were removed in vacuo. The mixture was acidified with 1 N HCl and extracted with 3×25 ml of ethyl acetate. The combined ethyl acetate extracts were washed with water then dried over anhydrous sodium sulfate. The mixture was filtered and solvents removed in vacuo. The residue were recrystallized from ethyl acetate to give 0.163 g (69.3%) of chenodeoxycholic acid, mp 117°-118° C., which did not depress when mixed with authentic material (mp 117°-118° C. from ethyl acetate).

reactant | methanol | 3 ml | CO | CH4O
reactant | potassium hydroxide | 0.8 g | [OH-].[K+]
reactant | methyl 3α,7α-diacetyloxy-5β-cholan-24-oate | 0.000599 mol, 0.294 g | C(C)(=O)O[C@H]1C[C@H]2C[C@H]([C@H]3[C@@H]4CC[C@H]([C@@H](CCC(=O)OC)C)[C@]4(CC[C@@H]3[C@]2(CC1)C)C)OC(C)=O | C29H46O6
solvent | isopropanol | 5 ml | C(C)(C)O | C3H8O
product | chenodeoxycholic acid | 0.163 g, 69.3% | C[C@H](CCC(=O)O)[C@H]1CC[C@@H]2[C@@]1(CC[C@H]3[C@H]2[C@@H](C[C@H]4[C@@]3(CC[C@H](C4)O)C)O)C | C24H40O4
